US04297129
2-Hydroxymethyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (4.00 g) and propionic anhydride (4.36 g) are dissolved in pyridine (20 ml), and the mixture is allowed to stand overnight. The pyridine is removed in vacuo, and the residue is added with ethyl acetate (70 ml) and water (20 ml). The ethyl acetate layer is separated, washed with water (20 ml) and concentrated to give white crystals of 2-propionyloxymethyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 40). Yield, 4.82 g (93%). M.P., 111.3° C.

reactant | 2-Hydroxymethyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 4.00 g | OCN1N=CC(NC1=O)=O | C4H5N3O3
reactant | propionic anhydride | 4.36 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-propionyloxymethyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | C(CC)(=O)OCN1N=CC(NC1=O)=O | C7H9N3O4
